### PR TITLE
[Merged by Bors] - feat(Polynomial/Derivative): iterated derivative of product of linear factors

### PR DESCRIPTION
**Pull request by YuvalFilmus**
Computed the iterated derivative of a product of linear factors.
This will be used to prove the corresponding formula for Lagrange interpolants, which will in turn be used to prove extremal properties of Chebyshev polynomials.

The proof involves a double counting argument which might already appear in Mathlib.
If not, it might be a good idea to put it somewhere under Combinatorics.

Also, there are instances where grind fails without explicitly applying congr — perhaps someone can fix this.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/Derivative.lean [hunk 1]
```diff
@@ -627,6 +632,58 @@ theorem iterate_derivative_X_sub_pow_self (n : ℕ) (c : R) :
...
+      case neg hP' =>
+        have hP'' : P.natDegree ≠ 0 := by
+          contrapose! hP'
+          exact derivative_of_natDegree_zero hP'
+        refine ind <| (natDegree_lt_iff_degree_lt hP').mp ?_
+        linarith [(natDegree_lt_iff_degree_lt hP).mpr h, natDegree_derivative_lt hP'']
+
+theorem iterate_derivative_prod_X_sub_C {k : ℕ} {S : Finset R} (hk : k ≤ #S) :
+    derivative^[k] (∏ a ∈ S, (X - C a)) =
+    k.factorial * ∑ T ∈ S.powersetCard (#S - k), ∏ a ∈ T, (X - C a):= by
```
Comment (jcommelin) [inline Mathlib/Algebra/Polynomial/Derivative.lean]:
```suggestion
    k.factorial * ∑ T ∈ S.powersetCard (#S - k), ∏ a ∈ T, (X - C a) := by
```
